US08604050B2
7.2 6-Amino-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine
A suspension of 0.5 g (2.4 mol) of 2-hydroxymethyl-6-nitro-3-methyl-3H-imidazo[4,5-b]pyridine, prepared in the preceding step, and 0.3 g of 10% palladium-on-charcoal is stirred for 3 hours under 2.5 atm. of hydrogen. After this time, the suspension is filtered through a pad of Celite and the filtrate is concentrated under reduced pressure. 0.4 g of the expected product is thus isolated, and is used without further purification in the rest of the synthesis.

reactant | 2-hydroxymethyl-6-nitro-3-methyl-3H-imidazo[4,5-b]pyridine | 2.4 mol, 0.5 g | OCC1=NC=2C(=NC=C(C2)[N+](=O)[O-])N1C | C8H8N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 0.3 g | [Pd] | Pd
product | 6-Amino-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine | 0.4 g | NC=1C=C2C(=NC1)N(C(=N2)CO)C | C8H10N4O
